US04585774
38 Grams of methyl anthranilate and 35 g of potassium carbonate were dissolved in 300 ml of a mixture of acetone-water (2:1), then to this solution was added dropwise 30 g of chloroacetyl chloride under an ice-cooled condition with stirring. After completion of the addition, the reaction was carried out at a room temperature for 2 hours, then 200 ml of water was added to the reaction mixture, and the mixture obtained was ice-cooled, and the crystals precipitated were collected by filtration. The crystals collected were washed with water and ethanol, and recrystallized from methanol to obtain 48.6 g of methyl o-(α-chloroacetylamino)benzoate in the form of colorless needle-like crystals. Melting point: 97°-99° C.

reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | potassium carbonate | 35 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 30 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | 200 ml | O | H2O
solvent | acetone water | CC(=O)C.O
product | methyl o-(α-chloroacetylamino)benzoate | 48.6 g | ClCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C10H10ClNO3
